US04548926
N-Benzyloxycarbonyl-3-(1-naphthyl)-D-alanyl-L-histidyl-L-leucinol
A mixed acid anhydride was prepared in a conventional manner from 186 mg. (0.53 mmole) of N-benzyloxycarbonyl-3-(1-naphthyl)-D-alanine. Separately, 360 mg. (0.7 mmole) of N-t-butyroxycarbonyl-Nim -2,4-dinitrophenyl-L-histidyl-L-leucinol was treated with 6 ml. of trifluoroacetic acid in the presence of 80 mg. (0.7 mmole) of anisole at room temperature for 30 minutes. To the resulting mixture were added 100 ml. of diethyl ether, and the yellow powder thus precipitated was separated by filtration and dissolved in 5 ml. of dimethylformamide. The solution was cooled to 0° C. and neutralized with 70 mg. (0.7 mmole) of N-methyl-morpholine; to the mixture was added the above-prepared mixed acid anhydride. The mixture was stirred at 0° C. for 1 hour, allowed to stand overnight at room temperature and then concentrated by evaporation under reduced pressure. To the residue was added dilute hydrochloric acid, and the yellow oily substance formed was extracted with ethyl acetate. The organic layer was washed successively with water, a 5% w/v aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulphate. The solvent was removed by distillation under reduced pressure, and water was added to the residue to solidify it. The solidified mass was pulverized and separated by filtration, to afford 330 mg. of the title compound, which was used for the next reaction without purification.

reactant | N-benzyloxycarbonyl-3-(1-naphthyl)-D-alanine | 0.53 mmole | C(C1=CC=CC=C1)OC(=O)N[C@H](CC1=CC=CC2=CC=CC=C12)C(=O)O | C21H19NO4
reactant | 2,4-dinitrophenyl-L-histidyl-L-leucinol | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)CO | C18H24N6O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 0.7 mmole | C1(=CC=CC=C1)OC | C7H8O
reactant | N-methyl-morpholine | 0.7 mmole | CN1CCOCC1 | C5H11NO
product | N-Benzyloxycarbonyl-3-(1-naphthyl)-D-alanyl-L-histidyl-L-leucinol | C(C1=CC=CC=C1)OC(=O)N[C@H](CC1=CC=CC2=CC=CC=C12)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)CO | C33H39N5O5
